US07247626B2
Ethyl [(3-phenyl-1H-pyrazol-5-yl)amino]carbothioylcarbamate (8.4 g, 29 mmol) was dissolved in aqueous sodium hydroxide (100 mL, 2N solution) and the resulting solution was stirred at room temperature overnight. This solution was acidified to pH=1 with concentrated sulfuric acid, resulting in heavy precipitation. This precipitate was collected by filtration and dried to give 7-phenyl-2-thioxo-2,3-dihydropyrazolo-[1,5-a][1,3,5]triazin-4(1H)-one (5.7 g, 80%) as a white solid. 1H-NMR (DMSO-d6): δ 7.97 (m, 2H), 7.48 (m, 3H), 6.41 (s, 1H); MS m/z 245 (M+1).

reactant | Ethyl [(3-phenyl-1H-pyrazol-5-yl)amino]carbothioylcarbamate | 29 mmol, 8.4 g | C1(=CC=CC=C1)C1=NNC(=C1)NC(=S)NC(OCC)=O | C13H14N4O2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | 2N, 100 mL | [OH-].[Na+]
product | 7-phenyl-2-thioxo-2,3-dihydropyrazolo-[1,5-a][1,3,5]triazin-4(1H)-one | 5.7 g, 80% | C1(=CC=CC=C1)C1=NN2C(NC(NC2=O)=S)=C1 | C11H8N4OS
